US06479608B1
1-t-Butyl-3,3-dibutyl-5,5-dimethyl-piperazin-2-on (278)
In analogy to Example B21, 1,1-dimethyl-2-t-butylaminoethylamin, dibutylketon, chloroform and NaOH are reacted to give the title compound as a yellow oil.

reactant | 1,1-dimethyl-2-t-butylaminoethylamin | CC(CNC(C)(C)C)(C)N | C8H20N2
reactant | dibutylketon | C(CCC)C(=O)CCCC | C9H18O
reactant | NaOH | [OH-].[Na+]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-t-Butyl-3,3-dibutyl-5,5-dimethyl-piperazin-2-on | C(C)(C)(C)N1C(C(NC(C1)(C)C)(CCCC)CCCC)=O | C18H36N2O
